US04069252
A solution of 135 g (1 mole) of dimethylbenzylamine in 100 ml of benzene was added dropwise, at -2° C, while cooling, in the course of 30 minutes to a mixture of 184 g (1 mole) of para-ethoxybenzoyl chloride and 54 g (2 moles) of anhydrous hydrocyanic acid in 300 ml of benzene at such a rate that the internal temperature did not rise above -20° C during the addition. When the addition was complete, the mixture was stirred for a further 10 minutes at -20° C and the excess hydrocyanic acid was then distilled, under a waterpump vacuum, into a cooled receiver. Dimethylbenzylamine hydrochloride, which was obtained in a crystalline form, was filtered off from the residual reaction mixture. The filtrate was subjected to fractional vacuum distillation. In this way 152 g (87% of theory) of para-ethoxybenzoyl cyanide with a melting point of 43° C were obtained.

reactant | dimethylbenzylamine | 1 mole, 135 g | CN(CC1=CC=CC=C1)C | C9H13N
reactant | para-ethoxybenzoyl chloride | 1 mole, 184 g | C(C)OC1=CC=C(C(=O)Cl)C=C1 | C9H9ClO2
reactant | hydrocyanic acid | 2 moles, 54 g | C#N | CHN
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | Dimethylbenzylamine hydrochloride | Cl.CN(CC1=CC=CC=C1)C | InChI=1S/C9H13N.ClH/c1-10(2)8-9-6-4-3-5-7-9;/h3-7H,8H2,1-2H3;1H
